US05318972
To 5.6 g (40 mmol) of 5-ethyluracil suspended in 100 ml of dichloromethane was added 22 ml (88 mmol) of bis-(trimethylsilyl)-acetamide under a nitrogen atmosphere at room temperature, and the mixture was stirred for 3 hours. To this was further added gently 3.4 ml (48 mmol) of 1,3-dioxolan and 5.6 ml (48 mmol) of tin tetrachloride. The resulting mixture was then subjected to reflux for 17 hours. The reaction mixture thus obtained was poured into 100 ml of a mixture of methanol and water (1:1) containing 22 g of sodium bicarbonate. After stirring for 2 hours, the resulting mixture was filtered through sellaite and the filtrate was evaporated to dryness. To the residue was added 120 ml of acetonitrile, 12 g (80 mmol) of t-butyldimethylsilylchloride and 5.4 g (80 mmol) of imidazole under a nitrogen atmosphere at room temperature. After 14 hours of stirring, the resulting reaction mixture was concentrated and subjected to partition using an ethyl acetate-water system, and then the organic layer was evaporated to dryness. The residue was adsorbed on a silica gel column and eluted with chloroform. Thereafter, the eluent was subjected to crystallization from a chloroform-hexane solvent to obtain 6.9 g (52%) of 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyluracil.

reactant | 5-ethyluracil | 40 mmol, 5.6 g | C(C)C=1C(NC(NC1)=O)=O | C6H8N2O2
reactant | bis-(trimethylsilyl)-acetamide | 88 mmol, 22 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 1,3-dioxolan | 48 mmol, 3.4 ml | O1COCC1 | C3H6O2
reactant | tin tetrachloride | 48 mmol, 5.6 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | 22 g | C([O-])(O)=O.[Na+]
reactant | t-butyldimethylsilylchloride | 80 mmol, 12 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 80 mmol, 5.4 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-ethyluracil | 6.9 g, 52% | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=O)NC(=O)C(=C1)CC | C15H28N2O4Si
